* MODELLING FOR STGY40NC60VD
 
.SUBCKT STGY40NC60VD 1 2 3
LG 10 2 7.5E-09
LE 3 15 7.5E-09
LC 13 1 4.5E-09
RG 10 5 1.7
RC 14 13 0.399E-02
RE 15 12 0.695E-03
RF 7 10 1MEG
RX 4 14 777.962
CGE 12 5 0.398E-08
CCG 17 4 0.654E-08
CK 16 4  0.139E-09
DCG 12 11 DG
Q1 12 11 14 Q
M1 11 5 12 12 MOS
E1 16 5 8 7 1
E2 17 5 6 7 1
G1 7 9 11 10 1u
D1  8 9 DI
D2  9 6 DI
D3 16 4 DO
R1 7 8 1MEG
R2 7 6 1MEG
.ENDS STGY40NC60VD
 
.MODEL MOS NMOS
+ LEVEL = 3
+ VTO   = 5.274
+ KP    = 34.453
+ THETA = 0.187
 
.MODEL Q PNP
+ IS    = 0.102E-15
+ VAF   = 102.035
+ BF    = 0.241
+ NE    = 1.613
+ ISE   = 0.201E-14
+ IKF   = 0.102E-01
+ BR    = 0.179E-02
+ NC    = 2.881
+ NK    = 0.648
+ TF    = 1E-06
+ ITF   = 1
+ VTF   = 10
+ XTF   = 0.1
 
.MODEL DI D
+ IS    = 0.01E-12
+ RS    = 0
 
.MODEL DO D
+ IS    = 0.01E-12
+ CJO   = 50E-12
+ VJ    = 0.75
+ M     = 0.35
 
.MODEL DG D
+ IS    = 0.01E-12
+ BV    = 675
+ VJ    = 0.75
+ M     = 0.35
 
* END OF MODELLING

