*SiSi3454DV Siliconix 13-Dec-96
*N-Channel DMOS Subcircuit Model
.SUBCKT Si3454DV 4 1 2 2
M1 3 1 2 2 NMOS W=578370U L=0.5U
R1 4 3 RTEMP 36.54M
CGS 1 2 60PF
CGD 1 6 160PF
DMIN 6 4 DMIN
DMAX 6 1 DMAX
DBODY 2 4 DBODY
.MODEL NMOS NMOS(LEVEL=3 TOX=5.00E-8 RS=0.001 RD=0 LD=0
+ NSUB=2.82E+17 VTO=2.963 UO=800 VMAX=0 ETA=3E-4 XJ=0.5E-6
+ KAPPA=0 CGBO=0 TPG=1 DELTA=0.1 CGSO=0 CGDO=0
+ IS=0 KP=9.3913U)
.MODEL DMIN D(CJO=270E-12 VJ=0.09 M=0.54 FC=0.5 IS=1E-21)
.MODEL DMAX D(CJO=270E-12 VJ=0.09 M=0.54 FC=0.5 IS=1E-21)
.MODEL DBODY D(CJO=435E-12 VJ=0.21 M=0.29 FC=0.5 N=1 IS=1E-21
+ TT=1.4E-8 BV=40)
.MODEL RTEMP R(TC1=0.3E-2 TC2=5.0E-6)
.ENDS 

*Si4410DY Siliconix 13-Oct-96
*N-Channel DMOS Subcircuit Model
.SUBCKT Si4410DY 4 1 2 2
M1 3 1 2 2 NMOS W=3510000U L=0.5U
R1 4 3 RTEMP 85E-4
CGS 1 2 450PF
CGD 1 6 1550PF
DMIN 6 4 DMIN
DMAX 6 1 DMAX
DBODY 2 4 DBODY
.MODEL NMOS NMOS(LEVEL=3 TOX=5.00E-8 RS=7.5E-4 RD=0 LD=0
+ NSUB=2.465E+17 UO=400 VMAX=7.4E+5 ETA=3.0E-4 XJ=5E-7
+ KAPPA=0.25 CGBO=0 TPG=1 DELTA=0.1 CGSO=0 CGDO=0
+ IS=0 KP=.943E-5 NFS=.5E+12)
.MODEL DMIN D(CJO=600E-12 VJ=0.15 M=0.45 FC=0.5 IS=1E-20)
.MODEL DMAX D(CJO=1150E-12 VJ=0.6 M=0.6 FC=0.5 IS=1E-32)
.MODEL DBODY D(CJO=900E-12 VJ=0.45 M=0.36 FC=0.5 N=1 IS=1E-15
+ TT=1.4E-8 BV=40)
.MODEL RTEMP R(TC1=4E-3 TC2=12E-6)
.ENDS 

*Si4412DY Siliconix 2-Oct-96
*N-Channel DMOS Subcircuit Model
.SUBCKT Si4412DY 4 1 2 2
M1 3 1 2 2 NMOS W=1755000U L=0.5U
R1 4 3 RTEMP 135E-4
CGS 1 2 550PF
CGD 1 6 550PF
DMIN 6 4 DMIN
DMAX 6 1 DMAX
DBODY 2 4 DBODY
.MODEL NMOS NMOS(LEVEL=3 TOX=5.00E-8 RS=45.5E-4 RD=0 LD=0
+ NSUB=1.85E+17 UO=400 VMAX=0 ETA=3.0E-4 XJ=5E-7
+ KAPPA=0.25 CGBO=0 TPG=1 DELTA=0.1 CGSO=0 CGDO=0
+ IS=0 KP=1.5E-5 NFS=.1E+12)
.MODEL DMIN D(CJO=530E-12 VJ=0.15 M=0.5 FC=0.5 IS=1E-20)
.MODEL DMAX D(CJO=650E-12 VJ=0.6 M=0.45 FC=0.5 IS=1E-22)
.MODEL DBODY D(CJO=950E-12 VJ=0.8 M=0.36 FC=0.5 N=1 IS=1E-15
+ TT=1.4E-8 BV=40)
.MODEL RTEMP R(TC1=4E-3 TC2=12E-6)
.ENDS 

*Si4936DY Siliconix 13-Feb-96
*N-Channel DMOS Subcircuit Model
.SUBCKT Si4936DY 4 1 2 2
M1 3 1 2 2 NMOS W=1232400U L=0.5U
R1 4 3 RTEMP 19M
CGS 1 2 550PF
CGD 1 6 800PF
DMIN 6 4 DMIN
DMAX 6 1 DMAX
DBODY 2 4 DBODY
.MODEL NMOS NMOS(LEVEL=3 TOX=5.0E-8 RS=11M RD=0 LD=0
+ NSUB=1.78E+17 UO=400 VMAX=0 ETA=3.0E-4 XJ=5E-7
+ KAPPA=0 CGBO=0 TPG=1 DELTA=0.1 CGSO=0 CGDO=0
+ IS=0 KP=1.45E-5 NFS=.8E+12)
.MODEL DMIN D(CJO=450E-12 VJ=0.12 M=0.4 FC=0.5 IS=1E-15)
.MODEL DMAX D(CJO=200E-12 VJ=0.8 M=0.5 FC=0.5 IS=1E-15)
.MODEL DBODY D(CJO=840E-12 VJ=0.65 M=0.4 FC=0.5 N=1 IS=1E-15
+ TT=5.7E-8 BV=40)
.MODEL RTEMP R(TC1=7.7M TC2=10U)
.ENDS 

*Si6426DQ Siliconix 18-Jul-95
*N-Channel DMOS Subcircuit Model
.SUBCKT Si6426DQ 4 1 2 2
M1 3 1 2 2 NMOS W=832624U L=0.5U
R1 4 3 RTEMP 18M
CGS 1 2 905PF
CGD 1 6 2950PF
DMIN 6 4 DMIN
DMAX 6 1 DMAX
DBODY 2 4 DBODY
.MODEL NMOS NMOS(LEVEL=3 TOX=17.5N RS=500U RD=0 LD=0
+ NSUB=3.365E+17 UO=800 VMAX=2MEG ETA=300U XJ=500N
+ KAPPA=0.55 CGBO=0 TPG=1 DELTA=0.1 CGSO=0 CGDO=0
+ IS=0 KP=60.3U NFS=0.8E+12)
.MODEL DMIN D(CJO=2600P VJ=0.06 M=0.55 FC=0.5 IS=1E-20)
.MODEL DMAX D(CJO=2400P VJ=0.6 M=0.5 FC=0.5 IS=1E-16)
.MODEL DBODY D(CJO=1200P VJ=0.1 M=0.26 FC=0.5 N=1 IS=1E-15
+ TT=14N BV=40)
.MODEL RTEMP R(TC1=3.6M TC2=12U)
.ENDS 

*Si6946DQ Siliconix 22-Oct-96
*N-Channel DMOS Subcircuit Model
.SUBCKT Si6946DQ 4 1 2 2
M1 3 1 2 2 NMOS W=298454U L=0.5U
R1 4 3 RTEMP 45M
CGS 1 2 180PF
CGD 1 6 1165PF
DMIN 6 4 DMIN
DMAX 6 1 DMAX
DBODY 2 4 DBODY
.MODEL NMOS NMOS(LEVEL=3 TOX=17.5N RS=550U RD=0 LD=0
+ NSUB=2.6E+17 UO=800 VMAX=1MEG ETA=300U XJ=500N
+ KAPPA=0.25 CGBO=0 TPG=1 DELTA=0.1 CGSO=0 CGDO=0
+ IS=0 KP=80U NFS=0.8E+12)
.MODEL DMIN D(CJO=932P VJ=0.06 M=0.6 FC=0.5 IS=1E-18)
.MODEL DMAX D(CJO=860P VJ=0.6 M=0.5 FC=0.5 IS=1E-19)
.MODEL DBODY D(CJO=430P VJ=0.15 M=0.26 FC=0.5 N=1 IS=1E-15
+ TT=14N BV=40)
.MODEL RTEMP R(TC1=3.2M TC2=12U)
.ENDS 

*Si6956DQ Siliconix 13-Oct-96
*N-Channel DMOS Subcircuit Model
.SUBCKT Si6956DQ 4 1 2 2
M1 3 1 2 2 NMOS W=283290U L=0.5U
R1 4 3 RTEMP 32.5M
CGS 1 2 75PF
CGD 1 6 500PF
DMIN 6 4 DMIN
DMAX 6 1 DMAX
DBODY 2 4 DBODY
.MODEL NMOS NMOS(LEVEL=3 TOX=50N RS=13M RD=0 LD=0
+ NSUB=1.965E+17 UO=420 VMAX=0 ETA=1.1M XJ=500N THETA=200M
+ KAPPA=0.05 CGBO=0 TPG=1 DELTA=0.1 CGSO=0 CGDO=0 IS=0)
.MODEL DMIN D(CJO=480P VJ=0.3 M=0.55 FC=0.5)
.MODEL DMAX D(CJO=240P VJ=0.9 M=0.4 FC=0.5 IS=1E-23)
.MODEL DBODY D(CJO=380P VJ=0.35 M=0.3 FC=0.5 N=1 IS=1E-10
+ TT=14N BV=30)
.MODEL RTEMP R(TC1=8M TC2=0)
.ENDS 

*Si9936DY Siliconix 15-Feb-96
*N-Channel DMOS Subcircuit Model
.SUBCKT Si9936DY 4 1 2 2
M1 3 1 2 2 NMOS W=2453000U L=0.5U
R1 4 3 RTEMP 9.2M
CGS 1 2 80PF
CGD 1 6 900PF
DMIN 6 4 DMIN
DMAX 6 1 DMAX
DBODY 2 4 DBODY
.MODEL NMOS NMOS(LEVEL=3 TOX=50N RS=26M RD=0 LD=0 KP=1.65U
+ NSUB=31.5E+16 UO=500 VMAX=40MEG ETA=0.1M XJ=500N THETA=5M
+ KAPPA=0.08 CGBO=0 TPG=1 DELTA=0.1 CGSO=0 CGDO=0 IS=0 NFS=3E+12)
.MODEL DMIN D(CJO=700P VJ=0.2 M=0.6 FC=0.5)
.MODEL DMAX D(CJO=800P VJ=0.98 M=0.5 FC=0.5 IS=0.5E-15)
.MODEL DBODY D(CJO=900P VJ=0.4 M=0.3 FC=0.5 N=1 IS=1E-10
+ TT=45N BV=40)
.MODEL RTEMP R(TC1=13.5M TC2=50U)
.ENDS 

*SUP60N06-18 Siliconix 16-May-96
*N-Channel DMOS Subcircuit Model
.SUBCKT SUP60N06-18 4 1 2 2
M1 3 1 2 2 NMOS W=3525000U L=0.5U
R1 4 3 RTEMP 5M
CGS 1 2 1360PF
CGD 1 6 2000PF
DMIN 6 4 DMIN
DMAX 6 1 DMAX
DBODY 2 4 DBODY
.MODEL NMOS NMOS(LEVEL=3 TOX=80N RS=7M RD=0 LD=0
+ NSUB=4E+15 VTO=4.53 UO=380 VMAX=600K ETA=0.3M XJ=100N THETA=150M
+ KAPPA=0.05 CGBO=0 TPG=1 DELTA=0.1 CGSO=0 CGDO=0 IS=0 NFS=0.5E+10)
.MODEL DMIN D(CJO=1900P VJ=0.08 M=0.58 FC=0.5 IS=1E-20 TT=10N)
.MODEL DMAX D(CJO=900P VJ=0.06 M=0.9 FC=0.5 IS=1E-16 TT=10N)
.MODEL DBODY D(CJO=1350P VJ=0.5 M=0.36 FC=0.5 N=1 IS=1E-15
+ TT=14N BV=68)
.MODEL RTEMP R(TC1=12M TC2=20U)
.ENDS 

*SUP70N06-14 Siliconix 17-Mar-95
*N-Channel DMOS Subcircuit Model
.SUBCKT SUP70N06-14 4 1 2 2
M1 3 1 2 2 NMOS W=4251000U L=0.5U
R1 4 3 RTEMP 5.5M
CGS 1 2 1414PF
CGD 1 6 2700PF
DMIN 6 4 DMIN
DMAX 6 1 DMAX
DBODY 2 4 DBODY
.MODEL NMOS NMOS(LEVEL=3 TOX=80N RS=2M RD=0 LD=0
+ NSUB=4E+15 VTO=4.26 UO=350 VMAX=200K ETA=0.3M XJ=100N THETA=360M
+ KAPPA=0.05 CGBO=0 TPG=1 DELTA=0.1 CGSO=0 CGDO=0 IS=0 NFS=0.5E+10)
.MODEL DMIN D(CJO=2300P VJ=0.08 M=0.48 FC=0.5 IS=1E-20 TT=10N)
.MODEL DMAX D(CJO=900P VJ=0.06 M=0.9 FC=0.5 IS=1E-16 TT=10N)
.MODEL DBODY D(CJO=1550P VJ=0.4 M=0.36 FC=0.5 N=1 IS=1E-15
+ TT=14N BV=68)
.MODEL RTEMP R(TC1=7M TC2=20U)
.ENDS 

*SUP75N06-08 Siliconix 07-Feb-95
*N-Channel DMOS Subcircuit Model
.SUBCKT SUP75N06-08 4 1 2 2
M1 3 1 2 2 NMOS W=8310000U L=0.5U
R1 4 3 RTEMP 4.9M
CGS 1 2 3354PF
CGD 1 6 2400PF
DMIN 6 4 DMIN
DMAX 6 1 DMAX
DBODY 2 4 DBODY
.MODEL NMOS NMOS(LEVEL=3 TOX=80N RS=1.45M RD=0 LD=0
+ NSUB=1.55E+17 UO=380 VMAX=0 ETA=0.1M XJ=500N THETA=20M
+ KAPPA=8M CGBO=0 TPG=1 DELTA=0.1 CGSO=0 CGDO=0 IS=0 NFS=3E+10)
.MODEL DMIN D(CJO=4000P VJ=0.1 M=0.53 FC=0.5 IS=1E-20 TT=10N)
.MODEL DMAX D(CJO=4000P VJ=0.9 M=0.79 FC=0.5 IS=1E-22 TT=1N)
.MODEL DBODY D(CJO=3500P VJ=0.22 M=0.36 FC=0.5 N=1 IS=1E-15
+ TT=14N BV=68)
.MODEL RTEMP R(TC1=7.55M TC2=12U)
.ENDS 

*Si3441DV Siliconix 21-Oct-96
*P-Channel DMOS Subcircuit Model
.SUBCKT Si3441DV 4 1 2 2
M1 3 1 2 2 PMOS W=300454U L=0.5U
R1 4 3 RTEMP 52.8530M
CGS 1 2 250PF
CGD 1 6 245PF
DMIN 4 6 DMIN
DMAX 1 6 DMAX
DBODY 4 2 DBODY
.MODEL PMOS PMOS(LEVEL=3 TOX=1.75E-8 RS=0.001 RD=0 LD=0
+ NSUB=3.3617E+17 VTO=-1.1738 UO=250 VMAX=0 ETA=3E-4 XJ=0.5E-6
+ KAPPA=0.012 CGBO=0 THETA=0.0 TPG=-1 DELTA=0.0 CGSO=0 CGDO=0
+ IS=0 KP=18.4008U)
.MODEL DMIN D(CJO=1850E-12 VJ=0.12 M=0.72 FC=0.56 IS=1E-20)
.MODEL DMAX D(CJO=1700E-12 VJ=0.50 M=0.5 FC=0.5 IS=1E-22)
.MODEL DBODY D(CJO=420E-12 VJ=0.11 M=0.23 FC=0.5 N=1 IS=1E-18
+ TT=1.0E-7 BV=40)
.MODEL RTEMP R(TC1=4.0E-3 TC2=6.0E-6)
.ENDS Si3441DV

*Si4431DY Siliconix 26-Sep-95
*P-Channel DMOS Subcircuit Model
.SUBCKT Si4431DY 4 1 2 2
M1 3 1 2 2 PMOS W=1673620U L=0.5U
R1 4 3 RTEMP 10M
CGS 1 2 630PF
CGD 1 6 650PF
DMIN 4 6 DMIN
DMAX 1 6 DMAX
DBODY 4 2 DBODY
.MODEL PMOS PMOS(LEVEL=3 TOX=5E-8 RS=11M RD=0 LD=0 NFS=1.25E+12
+ NSUB=7.2E+16 UO=200 VMAX=0 ETA=1E-3 XJ=5E-7
+ KAPPA=1.5E-2 CGBO=0 THETA=0.5E-3 TPG=-1 DELTA=0.1 CGSO=0 CGDO=0
+ IS=0 KP=.065E-4)
.MODEL DMIN D(CJO=660E-12 VJ=0.25 M=0.4 FC=0.5)
.MODEL DMAX D(CJO=1080E-12 VJ=0.75 M=0.4 FC=0.5 IS=0.5E-15)
.MODEL DBODY D(CJO=1000E-12 VJ=0.35 M=0.335 FC=0.5 N=1 IS=5E-10
+ TT=6.0E-8 BV=40)
.MODEL RTEMP R(TC1=10E-3 TC2=1E-5)
.ENDS Si4431DY

*Si4435DY Siliconix 01-Aug-95
*P-Channel DMOS Subcircuit Model
.SUBCKT Si4435DY 4 1 2 2
M1 3 1 2 2 PMOS W=3347240U L=0.5U
R1 4 3 RTEMP 6M
CGS 1 2 1338PF
CGD 1 6 1300PF
DMIN 4 6 DMIN
DMAX 1 6 DMAX
DBODY 4 2 DBODY
.MODEL PMOS PMOS(LEVEL=3 TOX=5E-8 RS=5M RD=0 LD=0 NFS=1.25E+12
+ NSUB=7.2E+16 UO=200 VMAX=0 ETA=1M XJ=5E-7
+ KAPPA=1.5E-2 CGBO=0 THETA=0.5M TPG=-1 DELTA=0.1 CGSO=0 CGDO=0
+ IS=0 KP=.06E-4)
.MODEL DMIN D(CJO=1880E-12 VJ=0.25 M=0.52 FC=0.5)
.MODEL DMAX D(CJO=1080E-12 VJ=0.75 M=0.4 FC=0.5 IS=0.5E-24)
.MODEL DBODY D(CJO=2000E-12 VJ=0.35 M=0.335 FC=0.5 N=1 IS=5E-10
+ TT=2.5E-8 BV=40)
.MODEL RTEMP R(TC1=10M TC2=1E-5)
.ENDS Si4435DY

*Si4947DY Siliconix 01-Mar-96
*P-Channel DMOS Subcircuit Model
.SUBCKT Si4947DY 4 1 2 2
M1 3 1 2 2 PMOS W=648284U L=0.5U
R1 4 3 RTEMP 26M
CGS 1 2 270PF
CGD 1 6 400PF
DMIN 4 6 DMIN
DMAX 1 6 DMAX
DBODY 4 2 DBODY
.MODEL PMOS PMOS(LEVEL=3 TOX=5E-8 RS=30M RD=0 LD=0 NFS=1.25E+12
+ NSUB=7.2E+16 UO=200 VMAX=0 ETA=0.1M XJ=5E-7
+ KAPPA=9E-2 CGBO=0 THETA=1M TPG=-1 DELTA=0.1 CGSO=0 CGDO=0
+ IS=0 KP=6.15U)
.MODEL DMIN D(CJO=260P VJ=0.2 M=0.4 FC=0.5)
.MODEL DMAX D(CJO=180P VJ=0.75 M=0.4 FC=0.5 IS=0.5E-20)
.MODEL DBODY D(CJO=350P VJ=0.85 M=0.32 FC=0.5 N=1 IS=5E-14
+ TT=14.7E-8 BV=40)
.MODEL RTEMP R(TC1=12M TC2=25U)
.ENDS Si4947DY

*Si4953DY Siliconix 13-Feb-96
*P-Channel DMOS Subcircuit Model
.SUBCKT Si4953DY 4 1 2 2
M1 3 1 2 2 PMOS W=1232400U L=0.5U
R1 4 3 RTEMP 21M
CGS 1 2 560PF
CGD 1 6 650PF
DMIN 4 6 DMIN
DMAX 1 6 DMAX
DBODY 4 2 DBODY
.MODEL PMOS PMOS(LEVEL=3 TOX=50N RS=20M RD=0 LD=0 NFS=0.8E+12
+ NSUB=7.4E+16 UO=200 VMAX=0 ETA=300U XJ=500N
+ KAPPA=0.1 CGBO=0 THETA=0 TPG=-1 DELTA=0 CGSO=0 CGDO=0
+ IS=0 KP=6.7U)
.MODEL DMIN D(CJO=560P VJ=0.22 M=0.42 FC=0.5 IS=1.0E-15)
.MODEL DMAX D(CJO=200P VJ=0.8 M=0.5 FC=0.5 IS=0.5E-15)
.MODEL DBODY D(CJO=790P VJ=0.7 M=0.4 FC=0.5 N=1 IS=1E-15
+ TT=1E-7 BV=40)
.MODEL RTEMP R(TC1=7.7M TC2=10U)
.ENDS Si4953DY

*Si6433DQ Siliconix 12-Sep-94
*P-Channel DMOS Subcircuit Model
.SUBCKT Si6433DQ 4 1 2 2
M1 3 1 2 2 PMOS W=901600U L=0.5U
R1 4 3 RTEMP 18M
CGS 1 2 170PF
CGD 1 6 1450PF
DMIN 4 6 DMIN
DMAX 1 6 DMAX
DBODY 4 2 DBODY
.MODEL PMOS PMOS(LEVEL=3 TOX=17.5N RS=5.5M RD=0 LD=0 NFS=1E+12
+ NSUB=1E+16 VTO=-1.495 UO=200 VMAX=430K ETA=710U XJ=500N
+ KAPPA=1M THETA=0 TPG=-1 IS=0 KP=10.9U)
.MODEL DMIN D(CJO=3100P VJ=0.1 M=0.51 FC=0.5 IS=12E-12)
.MODEL DMAX D(CJO=3000P VJ=0.1 M=0.45 FC=0.5 IS=0.8E-20)
.MODEL DBODY D(CJO=1200P VJ=0.2 M=0.3 FC=0.5 N=1 IS=1E-10
+ TT=1.4E-7 BV=15)
.MODEL RTEMP R(TC1=3M TC2=1U)
.ENDS Si6433DQ

*Si6435DQ Siliconix 26-Sep-95
*P-Channel DMOS Subcircuit Model
.SUBCKT Si6435DQ 4 1 2 2
M1 3 1 2 2 PMOS W=1673620U L=0.5U
R1 4 3 RTEMP 10M
CGS 1 2 630PF
CGD 1 6 650PF
DMIN 4 6 DMIN
DMAX 1 6 DMAX
DBODY 4 2 DBODY
.MODEL PMOS PMOS(LEVEL=3 TOX=50N RS=11M RD=0 LD=0 NFS=1.25E+12
+ NSUB=7.2E+16 UO=200 VMAX=0 ETA=1M XJ=500N
+ KAPPA=15M CGBO=0 THETA=500U TPG=-1 DELTA=0.1 CGSO=0 CGDO=0
+ IS=0 KP=6.5U)
.MODEL DMIN D(CJO=660P VJ=0.25 M=0.4 FC=0.5)
.MODEL DMAX D(CJO=1080P VJ=0.75 M=0.4 FC=0.5 IS=0.5E-15)
.MODEL DBODY D(CJO=1000P VJ=0.35 M=0.335 FC=0.5 N=1 IS=5E-10
+ TT=60N BV=40)
.MODEL RTEMP R(TC1=10M TC2=10U)
.ENDS Si6435DQ

*Si6447DQ Siliconix 15-Nov-94
*P-Channel DMOS Subcircuit Model
.SUBCKT Si6447DQ 4 1 2 2
M1 3 1 2 2 PMOS W=492336U L=0.5U
R1 4 3 RTEMP 28M
CGS 1 2 146PF
CGD 1 6 950PF
DMIN 4 6 DMIN
DMAX 1 6 DMAX
DBODY 4 2 DBODY
.MODEL PMOS PMOS(LEVEL=3 TOX=30N RS=22M RD=0 LD=0 NFS=3E+12
+ NSUB=1.6E+17 UO=200 VMAX=0 ETA=0.8M XJ=500N
+ KAPPA=1E-1 CGBO=0 THETA=1U TPG=-1 DELTA=0.1 CGSO=0 CGDO=0
+ IS=0 KP=10.15U)
.MODEL DMIN D(CJO=880P VJ=0.25 M=0.58 FC=0.5)
.MODEL DMAX D(CJO=480P VJ=0.75 M=0.4 FC=0.5 IS=0.5E-24)
.MODEL DBODY D(CJO=990P VJ=0.35 M=0.335 FC=0.5 N=1 IS=1E-10
+ TT=14N BV=30)
.MODEL RTEMP R(TC1=10M TC2=0)
.ENDS Si6447DQ

*Si6943DQ Siliconix 01-Aug-95
*P-Channel DMOS Subcircuit Model
.SUBCKT Si6943DQ 4 1 2 2
M1 3 1 2 2 PMOS W=298454U L=0.5U
R1 4 3 RTEMP 8M
CGS 1 2 98PF
CGD 1 6 1195PF
DMIN 4 6 DMIN
DMAX 1 6 DMAX
DBODY 4 2 DBODY
.MODEL PMOS PMOS(LEVEL=3 TOX=17.5N RS=22M RD=0 LD=0 NFS=0.8E+12
+ NSUB=1E+16 UO=400 VTO=0 VMAX=0 ETA=100U XJ=500N
+ KAPPA=1M CGBO=0 TPG=-1 DELTA=0.1 CGSO=0 CGDO=0
+ IS=0 KP=25U)
.MODEL DMIN D(CJO=1617P VJ=0.1 M=0.58 FC=0.5 IS=1E-18)
.MODEL DMAX D(CJO=900P VJ=0.8 M=0.4 FC=0.5 IS=1E-20)
.MODEL DBODY D(CJO=580P VJ=0.15 M=0.26 FC=0.5 N=1 IS=1E-15
+ TT=14N BV=40)
.MODEL RTEMP R(TC1=3.2M TC2=12U)
.ENDS Si6943DQ

*Si6953DQ Siliconix 13-Oct-94
*P-Channel DMOS Subcircuit Model
.SUBCKT Si6953DQ 4 1 2 2
M1 3 1 2 2 PMOS W=283290U L=0.5U
R1 4 3 RTEMP 40M
CGS 1 2 132PF
CGD 1 6 450PF
DMIN 4 6 DMIN
DMAX 1 6 DMAX
DBODY 4 2 DBODY
.MODEL PMOS PMOS(LEVEL=3 TOX=50N RS=56M RD=0 LD=0 NFS=3E+12
+ NSUB=8.7E+16 UO=110 VMAX=0 ETA=800U XJ=500N THETA=200U
+ KAPPA=0.3 CGBO=0 TPG=-1 DELTA=0.1 CGSO=0 CGDO=0 IS=0)
.MODEL DMIN D(CJO=380P VJ=0.25 M=0.58 FC=0.5)
.MODEL DMAX D(CJO=180P VJ=0.75 M=0.4 FC=0.5 IS=0.5E-24)
.MODEL DBODY D(CJO=590P VJ=0.35 M=0.335 FC=0.5 N=1 IS=1E-10
+ TT=14N BV=30)
.MODEL RTEMP R(TC1=13M TC2=0)
.ENDS Si6953DQ

*Si6955DQ Siliconix 01-Mar-96
*P-Channel DMOS Subcircuit Model
.SUBCKT Si6955DQ 4 1 2 2
M1 3 1 2 2 PMOS W=648284U L=0.5U
R1 4 3 RTEMP 26M
CGS 1 2 270PF
CGD 1 6 400PF
DMIN 4 6 DMIN
DMAX 1 6 DMAX
DBODY 4 2 DBODY
.MODEL PMOS PMOS(LEVEL=3 TOX=50N RS=30M RD=0 LD=0 NFS=1.25E+12
+ NSUB=7.2E+16 UO=200 VMAX=0 ETA=100U XJ=500N THETA=1M
+ KAPPA=90M CGBO=0 TPG=-1 DELTA=0.1 CGSO=0 CGDO=0 IS=0 KP=6.15U)
.MODEL DMIN D(CJO=260P VJ=0.2 M=0.4 FC=0.5)
.MODEL DMAX D(CJO=180P VJ=0.75 M=0.4 FC=0.5 IS=0.5E-20)
.MODEL DBODY D(CJO=350P VJ=0.85 M=0.32 FC=0.5 N=1 IS=5E-14
+ TT=147N BV=40)
.MODEL RTEMP R(TC1=12M TC2=25U)
.ENDS Si6955DQ

*Si9434DY Siliconix 21-Oct-96
*P-Channel DMOS Subcircuit Model
.SUBCKT Si9434DY 4 1 2 2
M1 3 1 2 2 PMOS W=1173406U L=0.5U
R1 4 3 RTEMP 10M
CGS 1 2 407PF
CGD 1 6 4231PF
DMIN 4 6 DMIN
DMAX 1 6 DMAX
DBODY 4 2 DBODY
.MODEL PMOS PMOS(LEVEL=3 TOX=17.5N RS=6M RD=0 LD=0
+ NSUB=4.86E+16 VTO=-1.38 UO=250 VMAX=0 ETA=300U XJ=500N THETA=0
+ KAPPA=5M CGBO=0 TPG=-1 DELTA=0 CGSO=0 CGDO=0 IS=0 KP=12.4U)
.MODEL DMIN D(CJO=4340P VJ=0.22 M=0.83 FC=0.56 IS=1E-20)
.MODEL DMAX D(CJO=1500P VJ=0.4 M=0.8 FC=0.5 IS=1E-22)
.MODEL DBODY D(CJO=1433P VJ=0.85 M=0.38 FC=0.5 N=1 IS=1E-18
+ TT=100N BV=20)
.MODEL RTEMP R(TC1=90M TC2=47U)
.ENDS Si9434DY

*Si9933DY Siliconix 16-May-95
*P-Channel DMOS Subcircuit Model
.SUBCKT Si9933DY 4 1 2 2
M1 3 1 2 2 PMOS W=547200U L=0.5U
R1 4 3 RTEMP 58M
CGS 1 2 140PF
CGD 1 6 2300PF
DMIN 4 6 DMIN
DMAX 1 6 DMAX
DBODY 4 2 DBODY
.MODEL PMOS PMOS(LEVEL=3 TOX=30N RS=20M RD=0 LD=0 NFS=1E+10
+ NSUB=1E+16 VTO=-1.7 UO=218 VMAX=400K ETA=7M XJ=800N THETA=0.1
+ KAPPA=5M CGBO=0 TPG=-1 DELTA=0.1 CGSO=0 CGDO=0 IS=0 PHI=0.18)
.MODEL DMIN D(CJO=960P VJ=0.5 M=0.9 FC=0.5 IS=1E-21)
.MODEL DMAX D(CJO=1200P VJ=0.5 M=0.5 FC=0.5 IS=1E-14 TT=10N)
.MODEL DBODY D(CJO=540P VJ=0.504 M=0.3 FC=0.5 N=1 IS=1E-12
+ TT=80N BV=16)
.MODEL RTEMP R(TC1=3M TC2=10U)
.ENDS Si9933DY

*Si9947DY Siliconix 13-Dec-96
*P-Channel DMOS Subcircuit Model
.SUBCKT Si9947DY 4 1 2 2
M1 3 1 2 2 PMOS W=201968U L=0.5U
R1 4 3 RTEMP 25M
CGS 1 2 360PF
CGD 1 6 455PF
DMIN 4 6 DMIN
DMAX 1 6 DMAX
DBODY 4 2 DBODY
.MODEL PMOS PMOS(LEVEL=3 TOX=50N RS=10M RD=0 LD=0
+ NSUB=2.86E+16 VTO=-3.05 UO=250 VMAX=0 ETA=300U XJ=500N THETA=0
+ KAPPA=10M CGBO=0 TPG=-1 DELTA=0 CGSO=0 CGDO=0 IS=0 KP=11.5U)
.MODEL DMIN D(CJO=840P VJ=0.4 M=0.75 FC=0.56 IS=1E-20)
.MODEL DMAX D(CJO=900P VJ=0.5 M=0.5 FC=0.5 IS=1E-22)
.MODEL DBODY D(CJO=1040P VJ=0.09 M=0.25 FC=0.5 N=1 IS=1E-18
+ TT=100N BV=40)
.MODEL RTEMP R(TC1=1.5M TC2=5U)
.ENDS Si9947DY

*SUP65P06-20 Siliconix 01-May-95
*P-Channel DMOS Subcircuit Model
.SUBCKT SUP65P06-20 4 1 2 2
M1 3 1 2 2 PMOS W=4010100U L=0.5U
R1 4 3 RTEMP 6.7M
CGS 1 2 3410PF
CGD 1 6 2550PF
DMIN 4 6 DMIN
DMAX 1 6 DMAX
DBODY 4 2 DBODY
.MODEL PMOS PMOS(LEVEL=3 TOX=70N RS=4.2M RD=0 LD=0 NFS=1.1E+12
+ NSUB=1.25E+17 VTO=-1 UO=300 VMAX=0 ETA=100U XJ=1.7U THETA=1U
+ KAPPA=150M CGBO=0 TPG=-1 DELTA=0.1 CGSO=0 CGDO=0 IS=0)
.MODEL DMIN D(CJO=4180P VJ=0.15 M=0.5 FC=0.5)
.MODEL DMAX D(CJO=3000P VJ=0.95 M=0.4 FC=0.5 IS=0.5E-24)
.MODEL DBODY D(CJO=2450P VJ=0.5 M=0.38 FC=0.5 N=1 IS=1E-10
+ TT=14N BV=70)
.MODEL RTEMP R(TC1=9.5M TC2=5U)
.ENDS SUP65P06-20

